US06555700B1
z,z,z-Octadeca-6,9,12-trienoyl chloride (2 g) was added dropwise to a solution of 1,5-dihydroxypentane (3.5 g), triethylamine (0.94 ml) and 4-(N,N-dimethylamino)pyridine (0.2 g) in methylene chloride (50 ml) with stirring at 0° C. under nitrogen. On completion of reaction as evidenced by tic the reaction mixture was washed with dilute hydrochloric acid and water, dried and purified by column chromatography yielding 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-5-hydroxypentane as a pale yellow oil.

reactant | z,z,z-Octadeca-6,9,12-trienoyl chloride | 2 g | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)Cl | C18H29ClO
reactant | 1,5-dihydroxypentane | 3.5 g | OCCCCCO | C5H12O2
reactant | triethylamine | 0.94 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-(N,N-dimethylamino)pyridine | 0.2 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-5-hydroxypentane | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)OCCCCCO | C23H40O3
